US07728018B2
2-(2-Methyl-[1,3]dioxolan-2-yl)-butyric acid ethyl ester
Methyl-2-ethylacetoacetate (100 mL) was taken up in toluene (250 mL). Ethylene glycol (46.9 mL, 1.35 equiv.) and a catalytic amount of p-TsOH.H2O were added, and the mixture was refluxed overnight under Dean-Stark conditions. After cooling to ambient temperature, the mixture was washed with 5% aqueous NaHCO3 and saturated aqueous NaCl, the organic phase was dried over Na2SO4 and evaporated under reduced pressure. The residue was purified by repeated vacuum distillation (118-128° C., 15 mbar), yielding 85.5 g of product. 1H NMR (400 MHz, CDCl3) δ 0.90 (t, J=7 Hz, 3H), 1.28 (t, J=7 Hz, 3H), 1.40 (s, 3H), 1.59-1.83 (m, 2H), 2.56 (dd, J=11.5 and 4 Hz, 1H), 3.90-4.06 (m, 4H), 4.18 (m, 2H).

reactant | Methyl-2-ethylacetoacetate | 100 mL | COC(C(C(=O)C)CC)=O | C7H12O3
reactant | Ethylene glycol | 46.9 mL, 1.35 equiv. | C(CO)O | C2H6O2
reactant | p-TsOH.H2O | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Methyl-[1,3]dioxolan-2-yl)-butyric acid ethyl ester | 85.5 g | C(C)OC(C(CC)C1(OCCO1)C)=O | C10H18O4
